### PR TITLE
[Merged by Bors] - feat(RingTheory/MvPolynomial): add finset of coefficients

### PR DESCRIPTION
**Pull request by chrisflav**
Copies the `Polynomial` API for the finset of coefficients of a polynomial to the multivariate case.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 1]
```diff
@@ -875,6 +875,32 @@ theorem C_dvd_iff_dvd_coeff (r : R) (φ : MvPolynomial σ R) : C r ∣ φ ↔ 
...
+
+lemma coeffs_one : coeffs (1 : MvPolynomial σ R) ⊆ {1} := by
+  classical
+  simp only [coeffs]
+  rw [Finset.image_subset_iff]
+  simp only [mem_support_iff, ne_eq, mem_singleton, ← C_1, coeff_C]
+  intro n hn
+  simp only [exists_prop, ite_eq_right_iff, not_forall] at hn
+  simp [hn]
+
```
Comment (faenuccio) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:894]:
```suggestion
classical
  simp_rw [coeffs, Finset.image_subset_iff]
  simp_all [coeff_one]
```

Comment (faenuccio) [reply Mathlib/Algebra/MvPolynomial/Basic.lean:894]: Can't you prove the equality rather than just an inclusion?

**Comment by faenuccio** [comment]
I think this PR should be split in two: one for defining new stuff and one for renaming old one.

File: Mathlib/Algebra/MvPolynomial/Basic.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/Algebra/MvPolynomial/Basic.lean:894]: I don't think I can, since I think it is wrong for `R = 0`. In this case the `1` polynomial is `0` and hence has empty coefficient set.

**Comment by chrisflav** [comment]
> I think this PR should be split in two: one for defining new stuff and one for renaming old one.

I opened #12919 for the renaming.

File: Mathlib/Algebra/MvPolynomial/Basic.lean (hunk 1 above)
Comment (faenuccio) [reply Mathlib/Algebra/MvPolynomial/Basic.lean:894]: Good point, but then you can add a (simp) lemma with the assumption that `R` is not `0` and that in that case there is an equality.

**Comment by faenuccio** [comment]
> > I think this PR should be split in two: one for defining new stuff and one for renaming old one.
> 
> I opened #12919 for the renaming.

Thanks! But I am under the impression that these changes are still in force in this PR.

File: Mathlib/Algebra/MvPolynomial/Basic.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/Algebra/MvPolynomial/Basic.lean]: Thanks for the suggestion, I have done this in the latest commit.

**Comment by chrisflav** [comment]
> > > I think this PR should be split in two: one for defining new stuff and one for renaming old one.
> > 
> > 
> > I opened #12919 for the renaming.
> 
> Thanks! But I am under the impression that these changes are still in force in this PR.

The changes are isolated now.

**Review by faenuccio — COMMENTED** [review]
Thanks, LGTM.

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 2]
```diff
@@ -875,6 +875,34 @@ theorem C_dvd_iff_dvd_coeff (r : R) (φ : MvPolynomial σ R) : C r ∣ φ ↔ 
...
+  classical
+    simp_rw [coeffs, Finset.image_subset_iff]
+    simp_all [coeff_one]
+
+@[simp]
+lemma coeffs_one_of_nontrivial [Nontrivial R] : coeffs (1 : MvPolynomial σ R) = {1} := by
+  apply Finset.Subset.antisymm coeffs_one
+  simp only [coeffs, Finset.singleton_subset_iff, Finset.mem_image]
+  exact ⟨0, by simp⟩
+
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:896]: Can you add `coeffs S = ∅` if `Subsingleton R` and tag it with `nontriviality`? And also `zero_not_mem_coeffs` might be useful?

Comment (chrisflav) [reply Mathlib/Algebra/MvPolynomial/Basic.lean:901]: I added the two `lemma`s.

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 3]
```diff
@@ -875,6 +875,44 @@ theorem C_dvd_iff_dvd_coeff (r : R) (φ : MvPolynomial σ R) : C r ∣ φ ↔ 
...
+  letI := Classical.decEq R
+  Finset.image p.coeff p.support
+
+lemma coeffs_zero : coeffs (0 : MvPolynomial σ R) = ∅ :=
+  rfl
+
+lemma coeffs_one : coeffs (1 : MvPolynomial σ R) ⊆ {1} := by
+  classical
+    simp_rw [coeffs, Finset.image_subset_iff]
+    simp_all [coeff_one]
```
Comment (faenuccio) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:889]:
```suggestion
  rw [coeffs, Finset.image_subset_iff]
  simp_all [coeff_one]
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 4]
```diff
@@ -875,6 +875,44 @@ theorem C_dvd_iff_dvd_coeff (r : R) (φ : MvPolynomial σ R) : C r ∣ φ ↔ 
...
+
+@[nontriviality]
+lemma coeffs_eq_empty_of_subsingleton [Subsingleton R] (p : MvPolynomial σ R) : p.coeffs = ∅ := by
+  simp only [coeffs, Finset.image_eq_empty, support_eq_empty]
+  exact Subsingleton.eq_zero p
```
Comment (faenuccio) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:894]:
```suggestion
  simpa only [coeffs, Finset.image_eq_empty, support_eq_empty] using Subsingleton.eq_zero p
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 5]
```diff
@@ -875,6 +875,43 @@ theorem C_dvd_iff_dvd_coeff (r : R) (φ : MvPolynomial σ R) : C r ∣ φ ↔ 
...
+lemma coeff_mem_coeffs {p : MvPolynomial σ R} (m : σ →₀ ℕ)
+    (h : p.coeff m ≠ 0) : p.coeff m ∈ p.coeffs :=
+  letI := Classical.decEq R
+  Finset.mem_image_of_mem p.coeff (mem_support_iff.mpr h)
+
+lemma zero_not_mem_coeffs (p : MvPolynomial σ R) : 0 ∉ p.coeffs := by
+  intro hz
+  obtain ⟨n, hnsupp, hn⟩ := mem_coeffs_iff.mp hz
+  exact (mem_support_iff.mp hnsupp) hn.symm
+
```
Comment (faenuccio) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:914]:
```suggestion
  simp [mem_coeffs_iff, mem_support_iff]
  tauto
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 6]
```diff
@@ -875,6 +875,43 @@ theorem C_dvd_iff_dvd_coeff (r : R) (φ : MvPolynomial σ R) : C r ∣ φ ↔ 
...
+    c ∈ p.coeffs ↔ ∃ n ∈ p.support, c = p.coeff n := by
+  simp [coeffs, eq_comm, (Finset.mem_image)]
+
+lemma coeff_mem_coeffs {p : MvPolynomial σ R} (m : σ →₀ ℕ)
+    (h : p.coeff m ≠ 0) : p.coeff m ∈ p.coeffs :=
+  letI := Classical.decEq R
+  Finset.mem_image_of_mem p.coeff (mem_support_iff.mpr h)
+
+lemma zero_not_mem_coeffs (p : MvPolynomial σ R) : 0 ∉ p.coeffs := by
+  intro hz
```
Comment (faenuccio) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:911]:
```suggestion
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean (hunk 5 above)
Comment (chrisflav) [reply Mathlib/Algebra/MvPolynomial/Basic.lean:914]: This seems to be a factor 10 slowdown in heartbeats. I would rather keep the explicit version.

Comment (faenuccio) [reply Mathlib/Algebra/MvPolynomial/Basic.lean:914]: Oh sure!

**Comment by faenuccio** [comment]
maintainer merge

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 7]
```diff
@@ -875,6 +875,43 @@ theorem C_dvd_iff_dvd_coeff (r : R) (φ : MvPolynomial σ R) : C r ∣ φ ↔ 
     IsRegular (∏ n in s, X n : MvPolynomial σ R) :=
   IsRegular.prod fun _ _ ↦ isRegular_X
 
+/-- The finset of nonzero coefficients of a multivariate polynomial. -/
+def coeffs (p : MvPolynomial σ R) : Finset R :=
+  letI := Classical.decEq R
+  Finset.image p.coeff p.support
+
+lemma coeffs_zero : coeffs (0 : MvPolynomial σ R) = ∅ :=
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:883]:
```suggestion
@[simp]
lemma coeffs_zero : coeffs (0 : MvPolynomial σ R) = ∅ :=
```

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by chrisflav** [comment]
Thanks for alle the reviews!
